US05804532
Dimethyl formamide dimethyl acetal (6.0 ml) was added to a solution of 3-cyclopropyl-1-(4-methyl-3-methylsulphenylphenyl)propan-1,3-dione (8.71 g) in toluene. The mixture was stirred at room temperature overnight. Further dimethyl formamide dimethyl acetal (2.0 ml) was added and the mixture was stirred and heated at 50° C. for 24 hours. It was cooled and evaporated to dryness to give 3-cyclopropyl-2-(N,N-dimethylaminomethylene)-1-(4-methyl-3-methylsulphenylphenyl)propan-1,3-dione (10.6 g) as a brown oil.

reactant | Dimethyl formamide dimethyl acetal | 6.0 ml | COC(N(C)C)OC | C5H13NO2
reactant | 3-cyclopropyl-1-(4-methyl-3-methylsulphenylphenyl)propan-1,3-dione | 8.71 g | C1(CC1)C(CC(=O)C1=CC(=C(C=C1)C)SC)=O | C14H16O2S
reactant | dimethyl formamide dimethyl acetal | 2.0 ml | COC(N(C)C)OC | C5H13NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopropyl-2-(N,N-dimethylaminomethylene)-1-(4-methyl-3-methylsulphenylphenyl)propan-1,3-dione | 10.6 g | C1(CC1)C(C(C(=O)C1=CC(=C(C=C1)C)SC)=CN(C)C)=O | C17H21NO2S
